data/rdb19/train.csv
rxn,smiles,ea
2265,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9](=[C:10]([H:15])[H:16])[C:11]([H:17])([H:18])[H:19])([H:12])([H:13])[H:14]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[C:9](=[C:10]([H:15])[H:16])[C:11]([H:17])([H:18])[H:19].[H:5][C:8]([H:12])([H:13])[H:14],85.65709957241779
5493,[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[O:5][C:6](=[O:7])[C:8]([H:14])([H:15])[H:16])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([O:5][C:6](=[O:7])[C:8]([H:14])([H:15])[H:16])[O:21][C:20]([N:19]([C:18](=[C:17]([H:22])[H:23])[H:24])[H:25])[H:26])([H:12])[H:13])([H:9])([H:10])[H:11],26.026220478583127
2008,[C:11]([C:12]([C:13]([C:14]([H:21])([H:22])[H:23])[C:15]([H:24])([H:25])[H:26])([H:19])[H:20])([H:16])([H:17])[H:18].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[H:8][C:13]([C:12]([C:11]([H:16])([H:17])[H:18])([H:19])[H:20])([C:14]([H:21])([H:22])[H:23])[C:15]([H:24])([H:25])[H:26].[N:1]([C:2](=[O:3])[C:4]=[C:5]([H:9])[H:10])([H:6])[H:7],26.05194132949692
5560,[C:13]([C:14]([C:15]([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])[H:24])([H:20])([H:21])[H:22].[C:1]([H:7])([H:8])([H:9])[H:23].[C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10],83.27427334256936
1403,[C:10]([C:11]([C:12]([C:13]([H:23])([H:24])[H:25])([C:14]([H:15])[H:16])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11]([C:12]([C:13]([H:23])([H:24])[H:25])=[C:14]([H:15])[H:16])([H:20])[H:21])([H:17])([H:18])[H:19].[O:1]([C:2]([O:3])([C:4](=[C:5]([H:8])[H:9])[H:7])[H:22])[H:6],45.01236692763632
5385,[C:17]([C:18]([C:19]([H:20])[O:21][C:22](=[O:23])[C:24]([H:30])([H:31])[H:32])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6][c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[H:14][C:19]([C:18]([C:17]([H:25])([H:26])[H:27])([H:28])[H:29])([H:20])[O:21][C:22](=[O:23])[C:24]([H:30])([H:31])[H:32],28.223927085869946
5479,[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([O:6][C:7](=[O:8])[C:9]([H:14])([H:15])[H:16])[H:13])([H:10])([H:11])[H:12]>>[C:1]([C:2]([C:3]([H:4])([H:5])[N:19]([C:18](=[C:17]([H:22])[H:23])[H:24])[H:25])([O:6][C:7](=[O:8])[C:9]([H:14])([H:15])[H:16])[H:13])([H:10])([H:11])[H:12].[C:20](=[O:21])[H:26],42.265170536295045
1903,[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7].[O:11]([O:12])[H:13]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])([H:10])[O:12][O:11])([H:8])[H:13])([H:6])[H:7],20.16590703715337
1993,[C:11]([C:12]([C:13]([C:14]([H:21])([H:22])[H:23])[C:15]([H:24])([H:25])[H:26])([H:19])[H:20])([H:16])([H:17])[H:18].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])[H:10])([H:8])[C:13]([C:12]([C:11]([H:16])([H:17])[H:18])([H:19])[H:20])([C:14]([H:21])([H:22])[H:23])[C:15]([H:24])([H:25])[H:26])([H:6])[H:7],15.41923909826437
5395,[C:17]([C:18]([C:19]([H:20])[H:21])([N:22]([C:23](=[O:24])[H:30])[H:29])[H:28])([H:25])([H:26])[H:27].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:17]([C:18](=[C:19]([H:20])[H:21])[N:22]([C:23](=[O:24])[H:30])[H:29])([H:25])([H:26])[H:27].[C:1](=[C:2]([C:3]1=[C:4]([H:12])[C:5]([H:13])[C:6]([H:14])([H:28])[C:7]([H:15])=[C:8]1[H:16])[H:11])([H:9])[H:10],37.96411851083394
870,[C:19]([C:20]([C:21]([H:22])[c:23]1[c:24]([H:34])[c:25]([H:35])[c:26]([H:36])[c:27]([H:37])[c:28]1[H:38])([H:32])[H:33])([H:29])([H:30])[H:31].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:13])[C:21]([C:20]([C:19]([H:29])([H:30])[H:31])([H:32])[H:33])([H:22])[c:23]1[c:24]([H:34])[c:25]([H:35])[c:26]([H:36])[c:27]([H:37])[c:28]1[H:38])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5](=[O:6])[N:7]([H:17])[H:18],69.0365259537939
1298,[O:1]([C:2]([O:3])([C:4](=[C:5]([H:8])[H:9])[H:7])[O:11][O:10][H:12])[H:6]>>[C:4](=[C:5]([H:8])[H:9])[H:7].[O:1]([C:2](=[O:3])[O:11][O:10][H:12])[H:6],10.717671379738022
4737,[C:1]([H:2])([H:3])[H:4].[C:5]([C:6]([C:7]([C:8]([H:21])([H:22])[H:23])([c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])[H:20])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:1]([H:2])([H:3])([H:4])[H:20].[C:5]([C:6]([C:7]([C:8]([H:21])([H:22])[H:23])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:18])[H:19])([H:15])([H:16])[H:17],15.781039524881637
